US04319913
Under a static nitrogen atmosphere at 0° C., a solution of n-butyllithium (8.06 g, 0.126 mol) in hexane was added to a solution of tetramethylethylenediamine (3.71 g, 0.032 mol) in 60 ml. of anhydrous cyclohexane with constant stirring. While maintaining the temperature of the reaction at 0° C., a solution of N-benzylaniline (11 g, 0.06 mol) in 60 ml. of anhydrous cyclohexane was added to the reaction mixture to produce a suspension containing a dilithio compound. This suspension was stirred for 2 hours at 26° C. and then cooled to 0° C. in an ice bath. A solution of 3-trifluoromethylphenylphosphonic dichloride (16.8 g, 0.064 mol) in 60 ml. of anhydrous cyclohexane was added dropwise to the suspension. The ice bath was removed and the resulting mixture was stirred for 3 hours at 26° C. The reaction was quenched with the rapid addition of 12 ml. of acetic acid. The cyclohexane was removed under vacuum and the resulting residue was partitioned in methylene chloride and water. The layers were separated and the methylene chloride layer was washed with 5% hydrochloric acid, then water, dried over sodium sulfate and concentrated in vacuo to yield a brown oil. The brown oil was separated on a silica gel column using a 3:1 mixture of methylene chloride:ethyl acetate as the eluant. Fractions containing the benzazaphosphole were combined and rechromatographed using methylene chloride as the eluant. Fractions containing the benzazaphosphole were combined and concentrated in vacuo and the residue was triturated in cyclohexane to yield a white solid. The white solid was evacuated under high vacuum to remove any cyclohexane and the resulting residue was recrystallized from diethyl ether and petroleum ether to yield 1-[3-(trifluoromethyl)phenyl]-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (6.6 g, 30% yield) as a beige solid having a melting point of 48°-51° C. and the following analysis:

reactant | n-butyllithium | 0.126 mol, 8.06 g | C(CCC)[Li]
reactant | tetramethylethylenediamine | 0.032 mol, 3.71 g | CN(CCN(C)C)C | C6H16N2
reactant | N-benzylaniline | 0.06 mol, 11 g | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 3-trifluoromethylphenylphosphonic dichloride | 0.064 mol, 16.8 g | FC(C=1C=C(C=CC1)P(=O)(Cl)Cl)(F)F | C7H4Cl2F3OP
solvent | hexane | CCCCCC | C6H14
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-[3-(trifluoromethyl)phenyl]-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 6.6 g, 30% yield | FC(C=1C=C(C=CC1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O)(F)F | C20H15F3NOP
